US05846989
3-[2-(4-Hydroxy-2-oxo-3H-1,3-benzothiazol-7-yl)-ethylamino]-N-[2-(2 -phenylthioethoxy)ethyl]propanesulphonamide hydrochloride.
The title compound (0.106 g) was prepared according to the procedure in example 8 part e using methyl 3-[2-(2-phenylthioethoxy)ethylaminosulphonyl]propanoate (1.4 g), diisobutylaluminiumhydride (1.5M in toluene, 3 ml), 7-(2-aminoethyl)-4-hydroxy-1,3 -benzothiazol-2(3H)-one hydrochloride (1.2 g) and sodium cyanoborohydride (0.3 g).

reactant | methyl 3-[2-(2-phenylthioethoxy)ethylaminosulphonyl]propanoate | 1.4 g | C1(=CC=CC=C1)SCCOCCNS(=O)(=O)CCC(=O)OC | C14H21NO5S2
reactant | diisobutylaluminiumhydride | 1.5M, 3 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 7-(2-aminoethyl)-4-hydroxy-1,3 -benzothiazol-2(3H)-one hydrochloride | 1.2 g | Cl.NCCC1=CC=C(C=2NC(SC21)=O)O
reactant | sodium cyanoborohydride | 0.3 g | C(#N)[BH3-].[Na+]
product | 3-[2-(4-Hydroxy-2-oxo-3H-1,3-benzothiazol-7-yl)-ethylamino]-N-[2-(2 -phenylthioethoxy)ethyl]propanesulphonamide hydrochloride | 0.106 g | Cl.OC1=CC=C(C2=C1NC(S2)=O)CCNCCCS(=O)(=O)NCCOCCSC2=CC=CC=C2 | InChI=1S/C22H29N3O5S3.ClH/c26-19-8-7-17(21-20(19)25-22(27)32-21)9-11-23-10-4-16-33(28,29)24-12-13-30-14-15-31-18-5-2-1-3-6-18;/h1-3,5-8,23-24,26H,4,9-16H2,(H,25,27);1H
